US05968944
B. 1-(4-Bromo-2,6-dimethylphenyl)-3-ethyl-5-methylthio-1H-pyrazole-4-carboxylic acid ethyl ester
A solution of 8.58 g (34.5 mmol) of 3,3-bismethylthio-2-propionylacrylic acid ethyl ester, 8.67 g (34.5 mmol) of 4-bromo-2,6-dimethylphenylhydrazine hydrochloride and 7.31 g (69.0 mmol) of sodium carbonate in 150 mL of ethanol in a 250 mL RBF under an atmosphere of dry N2 was refluxed over the weekend. The reaction mixture was cooled to room temperature and evaporated to a reddish solid. This material was partitioned between 150 mL of water and 200 mL of methylene chloride (CH2Cl2). The organic layer was separated, dried over sodium sulfate and evaporated to a gum which was chromatographed on a silica gel column eluting with CH2Cl2 to give 2.6 g of pure product as a yellow oil. 1H-NMR (CDCl3) δ 1.26 (3H, t, J=7), 1.40 (3H, t, J=7), 1.94 (6H, s), 2.33 (3H, s), 2.93 (2H, q, J=7), 4.36 (2H, q, J=7), 7.30 (2H, s).

reactant | 3,3-bismethylthio-2-propionylacrylic acid ethyl ester | 34.5 mmol, 8.58 g | C(C)OC(C(=C(SC)SC)C(CC)=O)=O | C10H16O3S2
reactant | 4-bromo-2,6-dimethylphenylhydrazine hydrochloride | 34.5 mmol, 8.67 g | Cl.BrC1=CC(=C(C(=C1)C)NN)C
reactant | sodium carbonate | 69.0 mmol, 7.31 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 1-(4-Bromo-2,6-dimethylphenyl)-3-ethyl-5-methylthio-1H-pyrazole-4-carboxylic acid ethyl ester | 2.6 g | C(C)OC(=O)C=1C(=NN(C1SC)C1=C(C=C(C=C1C)Br)C)CC | C17H21BrN2O2S
